US05441964
27 mg of (6-hydroxy-2-cyclohexylbenzo[b]thien-3yl)[4-[2-(1-piperidinyl)ethoxy]phenyl]methanone is dissolved in 1mL of pyridine, 0.1 mL of benzoyl chloride is added, and this mixture is agitated for one hour at room temperature. Ice is added to the reaction mixture, and the system is agitated for one hour. The organic layer is extracted with ethyl acetate and dried with anhydrous magnesium sulfate. The solvent is distilled off, and the crude product thus obtained is refined by TLC (developing solvent was chloroform:methanol=9: 1), which gives 37 mg of (6-benzoyloxy-2-cyclohexylbenzo[b]thien-3-yl)[4-[2-(1-piperidinyl)ethoxy]phenyl]methanone.

reactant | (6-hydroxy-2-cyclohexylbenzo[b]thien-3yl)[4-[2-(1-piperidinyl)ethoxy]phenyl]methanone | 27 mg | OC=1C=CC2=C(SC(=C2C(=O)C2=CC=C(C=C2)OCCN2CCCCC2)C2CCCCC2)C1 | C28H33NO3S
reactant | benzoyl chloride | 0.1 mL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | methanol | CO | CH4O
solvent | pyridine | 1mL | N1=CC=CC=C1 | C5H5N
product | (6-benzoyloxy-2-cyclohexylbenzo[b]thien-3-yl)[4-[2-(1-piperidinyl)ethoxy]phenyl]methanone | 37 mg | C(C1=CC=CC=C1)(=O)OC=1C=CC2=C(SC(=C2C(=O)C2=CC=C(C=C2)OCCN2CCCCC2)C2CCCCC2)C1 | C35H37NO4S
